US08217064B2
To a solution of 2,2,2-trifluoroethanol (28.2 g, 282.0 mmol) in toluene (120 mL) n-BuLi (1.6 M in hexane, 8.0 g, 80 mL, 125.0 mmol) was added at 0° C. and the reaction mixture warmed up to 25° C. A solution of 1,3,5-trifluoronitrobenzene (10.0 g, 56.5 mmol) in toluene (50 mL) was added dropwise. The reaction mixture was refluxed for 30 h and then poured into water (100 mL). The reaction mixture was extracted with EtOAc (3×100 mL). The organic layers were combined and dried over MgSO4. The solvent was evaporated under reduced pressure to give 5-fluoro-2-nitro-1,3-bis-(2,2,2-trifluoro-ethoxy)-benzene as a brown oil (18.0 g, 95%). The product was used for the next step without purification. 1H NMR (300 MHz, CDCl3/TMS): δ 6.47 (d, J=9.4 Hz, 2H), 4.40 (q, J=8.0 Hz, 4H).

reactant | 2,2,2-trifluoroethanol | 282.0 mmol, 28.2 g | FC(CO)(F)F | C2H3F3O
reactant | 1,3,5-trifluoronitrobenzene | 56.5 mmol, 10.0 g | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | water | 100 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125.0 mmol, 1.6 M, 120 mL, 8.0 g | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-2-nitro-1,3-bis-(2,2,2-trifluoro-ethoxy)-benzene | 18.0 g, 95% | FC=1C=C(C(=C(C1)OCC(F)(F)F)[N+](=O)[O-])OCC(F)(F)F | C10H6F7NO4
